US04177274
11 G. (0.05 moles) of 2-amino 5-iodo pyridine, 7.2 ml. (0.07 moles) of thiophenol, 3.8 g. (0.07 moles) of sodium methoxide, 1.0 g of copper powder and 100 ml. of methanol are heated 150° C. for 12 hours in a glass lined bomb. The reaction mixture is concentrated to dryness, extracted with chloroform and the chloroform extracts concentrated to dryness in vacuo affording 15 g. of a crude product which is chromatographed on 600 g. of silica gel, eluting with methylene chloride and ethyl acetate-methylene chloride 50% mixture affording 6.5 g of 2-amino 5-phenylthio pyridine, m.p. 127° to 129° C.

reactant | 2-amino 5-iodo pyridine | 0.05 moles | NC1=NC=C(C=C1)I | C5H5IN2
reactant | thiophenol | 0.07 moles | C1(=CC=CC=C1)S | C6H6S
reactant | sodium methoxide | 0.07 moles | C[O-].[Na+]
catalyst | copper | 1.0 g | [Cu] | Cu
solvent | methanol | CO | CH4O
product | 2-amino 5-phenylthio pyridine | 6.5 g | NC1=NC=C(C=C1)SC1=CC=CC=C1 | C11H10N2S
